** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/tb_switched_cap_tran_sweep.sch
**.subckt tb_switched_cap_tran_sweep
VDD VDD VSS 3.3
R2 VSS GND 0
I0 net1 VSS 0
x1 net1 VDD VSS vr2 vr1 switched_cap_cell
V1 vr1 VSS 0
V2 vr2 VSS 0
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice



.param temp=27

* Derived timing parameters

.options savecurrents klu method=gear reltol=1e-3 abstol=1e-12 gmin=1e-15
.probe alli
.control

echo
echo # ------------------------------------------------------------------------------
echo # VCM sweep:
echo # ------------------------------------------------------------------------------
echo

unset appendwrite
set wr_vecnames
set wr_singlescale

let vdd_var = 3.3
let record_periods = 5
let i_to_f = 3.3e-12
let ictrl = 1u

set currents = ( 3.3u 33u 330u )
foreach ictrl $currents
break
	let f = $ictrl/i_to_f
	let period = 1/f
	let tstop = record_periods*period
	let tstep = period/100
	echo ictrl=$ictrl, f=$&f, period=$&period, tstop=$&tstop, tstep=$&tstep
	alter i0 = $ictrl

	let vdm = 0.5
	let vcm = 0.3
	while vcm <= 3
		let v1 = $&vcm - $&vdm/2
		let v2 = $&vcm + $&vdm/2
		echo vcm=$&vcm, vdm=$&vdm, v1=$&v1, v2=$&v2
		alter v1 = $&v1
		alter v2 = $&v2
		tran $&tstep $&tstop
		wrdata ../plot_simulations/data/tb_switched_cap_tran_sweep_vcm.txt i(i0) i(v1) vr1 vr2
		set appendwrite
		unset wr_vecnames
		let vcm = $&vcm + 0.1
	end
end

echo
echo # ------------------------------------------------------------------------------
echo # VDM sweep:
echo # ------------------------------------------------------------------------------
echo

unset appendwrite
set wr_vecnames

set currents = ( 3.3u 33u 330u )
foreach ictrl $currents
break
	let f = $ictrl/i_to_f
	let period = 1/f
	let tstop = record_periods*period
	let tstep = period/100
	echo ictrl=$ictrl, f=$&f, period=$&period, tstop=$&tstop, tstep=$&tstep
	alter i0 = $ictrl

	let vdm = 0.1
	let vcm = $&vdd_var/2
	while vdm < $&vdd_var
		let v1 = $&vcm - $&vdm/2
		let v2 = $&vcm + $&vdm/2
		echo ictrl=$ictrl, vcm=$&vcm, vdm=$&vdm, v1=$&v1, v2=$&v2
		alter v1 = $&v1
		alter v2 = $&v2
		tran $&tstep $&tstop
		wrdata ../plot_simulations/data/tb_switched_cap_tran_sweep_vdm.txt i(i0) i(v1) vr1 vr2
		set appendwrite
		unset wr_vecnames
		let vdm = vdm + 0.1
	end
end

echo
echo # ------------------------------------------------------------------------------
echo # Ictrl sweep:
echo # ------------------------------------------------------------------------------
echo

unset appendwrite
set wr_vecnames

let vdm = $&vdd_var/2
let vcm = $&vdd_var/2
let v1 = $&vcm - $&vdm/2
let v2 = $&vcm + $&vdm/2
echo v1=$&v1, v2=$&v2
alter v1 $&v1
alter v2 $&v2

while $&ictrl < 400u
	let f = $&ictrl/i_to_f
	let period = 1/f
	let tstop = record_periods*period
	let tstep = period/100
	echo ictrl=$&ictrl, f=$&f, period=$&period, tstop=$&tstop, tstep=$&tstep

	alter i0 = $&ictrl
	tran $&tstep $&tstop
	wrdata ../plot_simulations/data/tb_switched_cap_tran_sweep_ictrl.txt i(i0) i(v1) vr1 vr2
	set appendwrite
	unset wr_vecnames
	let ictrl = ictrl * 1.1
end

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  switched_cap_cell.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sch
.subckt switched_cap_cell vctrl VDD VSS r2 r1
*.iopin r1
*.iopin r2
*.iopin VDD
*.iopin VSS
*.iopin vctrl
XC1 net2 VSS cap_cmomi w=30e-6 l=30e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM2 net1 out1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net1 out1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
x2 net6 net2 r1 net5 VDD VSS transmission_gate
x4 VDD net7 net4 VSS hv_inverter_40u
x5 VDD out1 vctrl VSS net9 net10 osc
x6 net8 net2 r2 net4 VDD VSS transmission_gate
x7 VDD net1 net7 VSS low_th_inverter
x8 VDD net1 net3 VSS high_th_inverter
x9 VDD net3 net6 VSS hv_inverter_40u
x10 VDD net6 net5 VSS hv_inverter_40u
x11 VDD net4 net8 VSS hv_inverter_40u
**** begin user architecture code


.param w   = 0.3u
.param ng  = 1
.param n_ng = ng
.param n_w = {w*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {1*w*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  transmission_gate.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sch
.subckt transmission_gate vctrl vin vout nvctrl VDD VSS
*.iopin vin
*.iopin vout
*.ipin vctrl
*.ipin nvctrl
*.iopin VDD
*.iopin VSS
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout nvctrl vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=1u
.param tg_ngate_w=1u
.param tg_pgate_w=5u
.param tg_ng=40


**** end user architecture code
.ends


* expanding   symbol:  hv_inverter_40u.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sch
.subckt hv_inverter_40u VDD in out VSS
*.ipin in
*.iopin VDD
*.iopin VSS
*.opin out
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  osc.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
.subckt osc VDD out1 ictrl VSS start out2
*.iopin VSS
*.iopin VDD
*.iopin out2
*.iopin out1
*.iopin start
*.iopin ictrl
XM3 out1 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 net1 ictrl VDD VDD sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM4 start ictrl VDD VDD sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out2 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 ictrl ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 net1 out1 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out2 start cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out1 start VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 start start VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out2 net1 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 net1 net1 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
**** begin user architecture code


.ic v(out1)=0 v(out2)=3.3


**** end user architecture code
.ends


* expanding   symbol:  low_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  high_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sch
.subckt high_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 10u
.param p_l = 0.4u


**** end user architecture code
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={p_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={p_ng} m=1 mm_ok=1
.ends

.GLOBAL VSS
.GLOBAL GND
.end
